US06111115
Preparation (IV) of 2-(3-carboxymethyl-4-phenylthiophenyl)propionic acid
2-(3-Carboxymethyl-4-iodophenyl)propionic acid (prepared in the manner as described in Example 12, 202 mg, 0.605 mol.), potassium carbonate (380 mg, 2.8 mmol.), N,N-dimethylformamide (DMF, 10 mL), and thiophenol (95 wt. %, 92 mg, 0.79 mmol.) were mixed. The resulting mixture was heated for 19 hours under reflux (temperature: approx. 115° C.) after addition of 20 mg of powdery copper. The reaction mixture was cooled, made acidic by addition of hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate portion was washed with an aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated to leave a residue. The residue was subjected to silica gel column chromatography (Wako gel C-200, Wako Jyunyaku Industry Co., Ltd., hexane/ethyl acetate/acetic acid=7/3/1, v/v/v) to obtain 94 mg (0.30 mmol., yield: 49%) of the desired compound.

reactant | 2-(3-Carboxymethyl-4-iodophenyl)propionic acid | C(=O)(O)CC=1C=C(C=CC1I)C(C(=O)O)C | C11H11IO4
reactant | potassium carbonate | 2.8 mmol, 380 mg | C([O-])([O-])=O.[K+].[K+]
reactant | thiophenol | 0.79 mmol, 92 mg | C1(=CC=CC=C1)S | C6H6S
reactant | hydrochloric acid | Cl | ClH
catalyst | copper | 20 mg | [Cu] | Cu
solvent | hexane ethyl acetate acetic acid | CCCCCC.C(C)(=O)OCC.C(C)(=O)O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(3-carboxymethyl-4-phenylthiophenyl)propionic acid | yield: 49% | C(=O)(O)CC=1C=C(C=CC1SC1=CC=CC=C1)C(C(=O)O)C | C17H16O4S
